US08461134B2
A solution of 1-(chloromethyl)-3-nitrobenzene (10.0 g, 58.1 mmol) in DMF (30 mL) was stirred at room temperature, then sodium propane-1-thiolate (5.7 g, 58.1 mmol) was added, followed by stirring at 60° C. overnight. After water was added, the aqueous layer was extracted with ethyl acetate 3 times. The combined organic phase was washed with brine, dried over sodium sulfate and concentrated to give (3-nitrobenzyl)(propyl)sulfane (11.2 g, yield 91%).

reactant | 1-(chloromethyl)-3-nitrobenzene | 58.1 mmol, 10.0 g | ClCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6ClNO2
reactant | sodium propane-1-thiolate | 58.1 mmol, 5.7 g | C(CC)[S-].[Na+]
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (3-nitrobenzyl)(propyl)sulfane | 11.2 g, yield 91% | [N+](=O)([O-])C=1C=C(CSCCC)C=CC1 | C10H13NO2S
